US06320050B1
A solution of iodomethylcyclopentane (4.60 g, 21.89 mmol) and triphenylphosphine (5.74 g, 21.89 mmol) in acetonitrile (22 mL) was heated under reflux for 2 weeks. The reaction mixture was allowed to cool to 25° C. and then concentrated in vacuo to provide an orange solid. The orange solid was triturated with diethyl ether and then filtered. The solid was washed well with diethyl ether until the washings showed the absence of iodomethylcyclopentane and triphenylphosphine by thin layer chromatography. The solid was allowed to air dry to afford cyclopentylmethyl triphenylphosphonium iodide (8.92 g, 86%) as a light orange solid: mp 195-198° C.; FAB-HRMS m/e calcd for C24H26P (M+H)+ 345.1772, found 345.1784.

reactant | iodomethylcyclopentane | 21.89 mmol, 4.60 g | ICC1CCCC1 | C6H11I
reactant | triphenylphosphine | 21.89 mmol, 5.74 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 22 mL | C(C)#N | C2H3N
product | cyclopentylmethyl triphenylphosphonium iodide | 8.92 g, 86% | [I-].C1(CCCC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H26P.HI/c1-4-14-22(15-5-1)25(20-21-12-10-11-13-21,23-16-6-2-7-17-23)24-18-8-3-9-19-24;/h1-9,14-19,21H,10-13,20H2;1H/q+1;/p-1
